US04003927
Chromium trioxide (28 g., 0.028 mole) in 83% acetic acid (12 ml.) is added slowly at 0° C. to a stirred solution of 5,6-dichloro-7-methoxytetralin (4 g., 0.073 mole) in a mixture of acetic acid (90 ml.) and propionic acid (20 ml.). The resulting dark mixture then is kept for 20 hours at 20°-25° C. The resulting dark green solution is poured into a mixture of water (900 ml.) and 96% H2SO4 (10 ml.). The mixture is heated to 70° C., cooled to 0° C. and the precipitate is collected, washed with water, and dried. The dried product is sublimed twice at 100° C. at ca. 0.5 mm. and then crystallized from methanol to obtain 6-methoxy-7,8-dichloro-1-tetralone (1 g.), melting point 132°-132.5° C. The identity of the product is established by proton magnetic resonance (pmr).

reactant | 5,6-dichloro-7-methoxytetralin | 0.073 mole, 4 g | ClC1=C2CCCCC2=CC(=C1Cl)OC | C11H12Cl2O
reactant | water | 900 ml | O | H2O
reactant | H2SO4 | 10 ml | OS(=O)(=O)O | H2O4S
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | propionic acid | 20 ml | C(CC)(=O)O | C3H6O2
catalyst | Chromium trioxide | 0.028 mole, 28 g | [O-2].[O-2].[O-2].[Cr+6]
product | 6-methoxy-7,8-dichloro-1-tetralone | 1 g | COC=1C=C2CCCC(C2=C(C1Cl)Cl)=O | C11H10Cl2O2
